US07745450B2
5,7-Dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine (1.015 mmol; 234.6 mg), 1 mL benzylamine and n-butanol (2 mL) were stirred at 65° C. for 4 hours. The reaction mixture was evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with the following solvent system: CHCl3/MeOH (99/1), to give 7-benzylamino-5-chloro-3-isopropylpyrazolo[4,3-d]pyrimidine. Yield 96%; MS (ES+): 302.3 (100%, M+H+), 304.3 (32%, M+H+). 1H NMR (CDCl3; 300 MHz): 1.37 d (6H, J=7.1 Hz); 3.39 sept (1H, J=7.1 Hz), 6.72 s (1H), 4.82 s (2H), 7.28 m (5H).

reactant | 5,7-Dichloro-3-isopropylpyrazolo[4,3-d]pyrimidine | 1.015 mmol, 234.6 mg | ClC=1N=C(C2=C(N1)C(=NN2)C(C)C)Cl | C8H8Cl2N4
reactant | benzylamine | 1 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 7-benzylamino-5-chloro-3-isopropylpyrazolo[4,3-d]pyrimidine | Yield 96% | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)Cl)C(=NN2)C(C)C | C15H16ClN5
